US08383635B2
Ethyl 4-methyl-2-(methylthio)-6-oxo-1,6-dihydro-5-pyrimidinecarboxylate
A round bottom flask was charged with ethyl 4-methyl-2-(methylthio)-6-oxo-1,4,5,6-tetrahydro-5-pyrimidinecarboxylate (11.2 g, 48.7 mmol), N-bromo succinimide (8.67 g, 48.7 mmol), benzoyl peroxide (0.65 g, 2.7 mmol), potassium carbonate (67 g, 487 mmol) and carbon tetrachloride (700 mL). The reaction was heated to reflux for 45 min and cooled to room temperature. The reaction was quenched with to water (500 mL) and washed with methylene chloride. Aqueous phase was acidified by dropwise addition of conc. HCl and extracted with methylene chloride. The extract was dried over MgSO4, filtered, and evaporated under vacuum to afford the product (8.2 g, 78% yield).

reactant | ethyl 4-methyl-2-(methylthio)-6-oxo-1,4,5,6-tetrahydro-5-pyrimidinecarboxylate | 48.7 mmol, 11.2 g | CC1N=C(NC(C1C(=O)OCC)=O)SC | C9H14N2O3S
reactant | N-bromo succinimide | 48.7 mmol, 8.67 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | potassium carbonate | 487 mmol, 67 g | C([O-])([O-])=O.[K+].[K+]
catalyst | benzoyl peroxide | 2.7 mmol, 0.65 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | carbon tetrachloride | 700 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | Ethyl 4-methyl-2-(methylthio)-6-oxo-1,6-dihydro-5-pyrimidinecarboxylate | 8.2 g, 78% yield | CC=1N=C(NC(C1C(=O)OCC)=O)SC | C9H12N2O3S
